US07001897B2
To a solution of 1-t-butoxycarbonyl-3-(p-nitrobenzyloxycarbonylamino)azetidine (4.84 g, 13.8 mmol) (obtained as described in Reference Example 57(3)) in 1,4-dioxane (50 ml) was added a 4N solution of hydrogen chloride in 1,4-dioxane (50 ml) in an ice bath, and the mixture was stirred at room temperature for 2.5 hours. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. To the residue was added ethyl acetate, and the resulting mixture was filtered, and the residue was washed with ethyl acetate and then dried under reduced pressure to give 3-(p-nitrobenzyloxycarbonylamino)azetidine hydrochloride (2.31 g, yield 58%) as pale yellow crystals.

reactant | 1-t-butoxycarbonyl-3-(p-nitrobenzyloxycarbonylamino)azetidine | 13.8 mmol, 4.84 g | C(C)(C)(C)OC(=O)N1CC(C1)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H21N3O6
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-(p-nitrobenzyloxycarbonylamino)azetidine hydrochloride | 2.31 g, yield 58% | Cl.[N+](=O)([O-])C1=CC=C(COC(=O)NC2CNC2)C=C1 | InChI=1S/C11H13N3O4.ClH/c15-11(13-9-5-12-6-9)18-7-8-1-3-10(4-2-8)14(16)17;/h1-4,9,12H,5-7H2,(H,13,15);1H
